US05403847
2,6-Dimethyl-4- (4-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid N-[3-(4,4-diphenylpiperidine-1-yl)propyl]amide methyl ester
A solution of acetoacetic acid N-[3-(4,4-diphenylpiperidin-1-yl)propyl]amide (365 mg, 0.964 mmol, 1.0 equiv), methyl 3-aminocrotonate (138 mg, 1.20 mmol, 1.2 equiv, Aldrich) , and 4-nitrobenzaldehyde (181 mg, 1.20 mmol, 1.2 equiv, Aldrich) in isopropanol was refluxed under argon for 60 hours. The mixture was cooled to room temperature and concentrated, and the residue was diluted with CH2Cl2, washed with water, dried over MgSO4, and concentrated. The residue was purified by flash chromatography (SiO2, EtOAc, followed by EtOAc-MeOH, 19:1 and 9:1) to give 147.8 mg (25%) of yellow solid: 1H NMR (300 MHz, CDCl3)δ 1.55 (m, 2H), 2.14 (s, 3H), 2.15-2.50 (m, 10H), 2.32 (s, 3H), 3.20 (m, 1H), 3.37 (m, 1H), 3.54 (s, 3H), 5.00 (s, 3H), 5.48 (br s) , 6.98 (br t, J=4.9 Hz, 1H), 7.14-7.30 (m, 10H), 7.39 (din, J=8.7 Hz, 2H), 8.05 (dm, J=8.7 Hz, 2H); 13C NMR (75 MHz, CDCl3)δ 18.74, 20.64, 25.61, 36.77, 40.20, 42.26, 45.03, 51.16, 51.61, 58.08, 100.65, 109.71, 124.35, 126.46, 127.61, 128.84, 129.06, 135.52, 146.96, 147.10, 154.55, 168.22, 168.70; IR (neat) 1680, 1610, 1515, 1340 cm-1 ; MS (FAB) m/e 609 (M+H)+.

reactant | acetoacetic acid N-[3-(4,4-diphenylpiperidin-1-yl)propyl]amide | 0.964 mmol, 365 mg, 1.0 equiv | C1(=CC=CC=C1)C1(CCN(CC1)CCCNC(CC(=O)C)=O)C1=CC=CC=C1 | C24H30N2O2
reactant | methyl 3-aminocrotonate | 1.20 mmol, 138 mg, 1.2 equiv | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | 4-nitrobenzaldehyde | 1.20 mmol, 181 mg, 1.2 equiv | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2,6-Dimethyl-4- (4-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid N-[3-(4,4-diphenylpiperidine-1-yl)propyl]amide methyl ester | 147.8 mg, 25% | COC(=O)C=1C(C(=C(NC1C)C)C(=O)NCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C36H40N4O5
